US08034812B2
Production of N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-4-methoxyphenyl]-3-(trifluoromethyl)benzamide
To a solution of N-[6-(5-amino-2-methoxyphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (150 mg, 0.44 mmol) in N-methylpyrrolidone (6.0 mL) was added 3-(trifluoromethyl)benzoyl chloride (92 mg, 0.44 mmol) under ice-cooling, and the mixture was stirred at room temperature for 12 hr. The reaction mixture was diluted with 1N hydrochloric acid and extracted with ethyl acetate, and the organic layer was washed with 5% aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous sodium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was purified by NH silica gel column chromatography (ethyl acetate/hexane=50/50→100/0), and precipitated from ethyl acetate/diisopropyl ether to give the title compound (180 mg, 80%) as a white powder.

reactant | N-[6-(5-amino-2-methoxyphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.44 mmol, 150 mg | NC=1C=CC(=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C1)OC | C17H17N5O3
reactant | 3-(trifluoromethyl)benzoyl chloride | 0.44 mmol, 92 mg | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
solvent | N-methylpyrrolidone | 6.0 mL | CN1C(CCC1)=O | C5H9NO
solvent | hydrochloric acid | 1N | Cl | ClH
product | N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-4-methoxyphenyl]-3-(trifluoromethyl)benzamide | 180 mg, 80% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2OC)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1 | C25H20F3N5O4
